US05932601
A solution of dimethyl sulfoxide (DMSO) (4 g) in dichloromethane (10 ml) was added dropwise, at temperatures ranging from -60 to -50° C., to a solution of oxalyl chloride [(COCl2)] (2.9 g) in dichloromethane (100 ml). The mixture was stirred for 10 minutes at the same temperature range, to which was then added dropwise a solution of 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanol (4.3 g) in dichloromethane (15 ml). The mixture was stirred for 30 minutes at 0° C., to which was added dropwise at -20° C. triethylamine (10.6 g). The mixture was stirred for further 30 minutes at the same temperature. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), followed by distilling off the solvent under reduced pressure. The residue was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate-hexane (1:3), was obtained 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-phenyl]heptanal, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.64-65° C.

reactant | dimethyl sulfoxide | 4 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 2.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]heptanol | 4.3 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCCO | C25H31NO4
reactant | triethylamine | 10.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 7-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)-phenyl]heptanal | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCCC=O | C25H29NO4
